US06627651B1
A mixture of methyl 7-methoxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (300 mg), 48% hydrobromic acid (3 ml) and acetic acid (3 ml) was heated at reflux for 4 hours. After concentration under reduced pressure, 48% hydrobromic acid (3 ml) and acetic acid (3 ml) were further added to the reaction mixture, which was heated at reflux for 8 hours. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to obtain 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (224 mg) as light yellow crystals.

reactant | methyl 7-methoxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 300 mg | COC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C13H14O5S
reactant | hydrobromic acid | 3 ml | Br | BrH
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 224 mg | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C11H10O5S
